US07943795B2
B. [(6-{1-[4-(3,3-Dimethyl-2-oxobutoxy)-3-methylphenyl]-1-ethylpropyl}naphthalene-2-carbonyl)methylamino]acetic acid
Treat a solution of [(6-{1-[4-(3,3-Dimethyl-2-oxobutoxy)-3-methylphenyl]-1-ethylpropyl}naphthalene-2-carbonyl)methylamino]acetic acid ethyl ester (0.090 g, 0.16 mmol) in THF (1.25 mL) and EtOH (2.5 mL) with 2N NaOH (0.80 mL, 1.6 mmol). Heat the mixture to 50° C. for 16 h. Acidify the reaction mixture to pH 1 using 1N HCl. Concentrate the resulting mixture. Dilute the residue with EtOAc and water (25 mL each). Separate and discard the aqueous layer. Wash the organic layer with brine, dry over Na2SO4, and filter. Concentrated the filtrate to give the title compound as a white solid (0.070 g, 85%). MS (ES) m/e 518 (M+1).

reactant | [(6-{1-[4-(3,3-Dimethyl-2-oxobutoxy)-3-methylphenyl]-1-ethylpropyl}naphthalene-2-carbonyl)methylamino]acetic acid ethyl ester | 0.16 mmol, 0.090 g | C(C)OC(CNCC(=O)C1=CC2=CC=C(C=C2C=C1)C(CC)(CC)C1=CC(=C(C=C1)OCC(C(C)(C)C)=O)C)=O | C34H43NO5
reactant | NaOH | 1.6 mmol, 2N, 0.80 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 1.25 mL | C1CCOC1 | C4H8O
solvent | EtOH | 2.5 mL | CCO | C2H6O
product | [(6-{1-[4-(3,3-Dimethyl-2-oxobutoxy)-3-methylphenyl]-1-ethylpropyl}naphthalene-2-carbonyl)methylamino]acetic acid | 0.070 g, 85% | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C=1C=C2C=CC(=CC2=CC1)C(=O)CNCC(=O)O)C)=O)(C)C | C32H39NO5
